US09126931B2
8-Bromo-9-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile
Phosphorus pentoxide-methanesulfonic acid (12 mL) was added with 2-[1-(3-bromo-4-methoxy-phenyl)-1-methyl-ethyl]-6-cyano-1H-indole-3-carboxylic acid ethyl ester (Compound K5, 1.0 g, 2.27 mmol), and the mixture was stirred at room temperature for 20 min. The reaction solution was diluted with MeCN (20 mL), poured into water (20 mL), and the precipitated solid was filtered to obtain the title compound (yellow solid, 763 mg, 85%).

reactant | Phosphorus pentoxide methanesulfonic acid | 12 mL | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3.CS(=O)(=O)O
reactant | 2-[1-(3-bromo-4-methoxy-phenyl)-1-methyl-ethyl]-6-cyano-1H-indole-3-carboxylic acid ethyl ester | 2.27 mmol, 1.0 g | C(C)OC(=O)C1=C(NC2=CC(=CC=C12)C#N)C(C)(C)C1=CC(=C(C=C1)OC)Br | C22H21BrN2O3
reactant | water | 20 mL | O | H2O
solvent | MeCN | 20 mL | CC#N | C2H3N
product | 8-Bromo-9-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 763 mg, 85% | BrC=1C(=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C1)OC | C20H15BrN2O2
